US08541407B2
To a solution of 5-bromo-2-chloropyridine-3-amine (3.9 g, 18.9 mmol) and triethylamine (5.3 mL, 37.9 mmol) in tetrahydrofuran (60 mL) was added 2-nitrobenzoylchloride (2.49 mL, 18.9 mmol). The reaction was stirred for 24 hours. The reaction mixture was diluted with ethyl acetate (200 mL) and saturated aqueous sodium bicarbonate (60 mL). The organic layer was separated and washed with water (50 mL), brine (50 mL), dried over sodium sulfate, filtered and concentrated to dryness under reduced pressure. The crude product was purified by flash chromatography (SiO2, 25% ethyl acetate in hexanes). The N-(5-bromo-2-chloropyridin-3-yl)-2-nitrobenzamide was obtained as a yellow solid (1.5 g). LCMS [M+H]: 356.

reactant | 5-bromo-2-chloropyridine-3-amine | 18.9 mmol, 3.9 g | BrC=1C=C(C(=NC1)Cl)N | C5H4BrClN2
reactant | triethylamine | 37.9 mmol, 5.3 mL | C(C)N(CC)CC | C6H15N
reactant | 2-nitrobenzoylchloride | 18.9 mmol, 2.49 mL | [N+](=O)([O-])C1=C(C(=O)Cl)C=CC=C1 | C7H4ClNO3
solvent | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
solvent | sodium bicarbonate | 60 mL | C([O-])(O)=O.[Na+]
product | N-(5-bromo-2-chloropyridin-3-yl)-2-nitrobenzamide | BrC=1C=C(C(=NC1)Cl)NC(C1=C(C=CC=C1)[N+](=O)[O-])=O | C12H7BrClN3O3
